US03953459
17.2 g of acetonine hydrate, 3 g of methanol and 0.5 g of ammonium chloride are heated to 60° C. After a reaction time of 12 hours, it is shown by a gas-chromatographical analysis that about 80% of the employed amount of acetonine has been reacted to form triacetoneamine, which is isolated by distillation.

reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | methanol | 3 g | CO | CH4O
product | triacetoneamine | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
